* NGSPICE file created from LIF_comp.ext - technology: gf180mcuD

.subckt nfet$1$1 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=1.8788p pd=7.38u as=1.8788p ps=7.38u w=3.08u l=0.28u
.ends

.subckt pfet$7 w_n352_n286# a_n92_0# a_94_0# a_28_228#
X0 a_94_0# a_28_228# a_n92_0# w_n352_n286# pfet_03v3 ad=0.546p pd=2.98u as=0.546p ps=2.98u w=0.84u l=0.28u
.ends

.subckt nfet$39 a_n84_n2# a_n256_n198# a_1746_0# a_38_n60#
X0 a_1746_0# a_38_n60# a_n84_n2# a_n256_n198# nfet_03v3 ad=0.228p pd=1.98u as=0.228p ps=1.98u w=0.36u l=8.54u
.ends

.subckt nfet$2$1 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.5124p pd=2.9u as=0.5124p ps=2.9u w=0.84u l=0.28u
.ends

.subckt ota_1stage$2 vdd vp vn vss vout
Xnfet$1$1_1 vss vp m3_n530_n14# m3_n314_178# nfet$1$1
Xpfet$7_0 vdd vdd m3_n314_178# m3_n314_178# pfet$7
Xpfet$7_1 vdd vdd vout m3_n314_178# pfet$7
Xnfet$39_0 m3_n1200_n476# vss vdd vdd nfet$39
Xnfet$2$1_0 vss m3_n1200_n476# m3_n1200_n476# vss nfet$2$1
Xnfet$2$1_1 vss m3_n1200_n476# vss m3_n530_n14# nfet$2$1
Xnfet$1$1_0 vss vn m3_n530_n14# vout nfet$1$1
.ends

.subckt nfet$50 a_n256_n198# a_38_n60# a_n84_0# a_138_0#
X0 a_138_0# a_38_n60# a_n84_0# a_n256_n198# nfet_03v3 ad=0.305p pd=2.22u as=0.305p ps=2.22u w=0.5u l=0.5u
.ends

.subckt pfet$4 w_n352_n286# a_n92_0# a_94_0# a_28_228#
X0 a_94_0# a_28_228# a_n92_0# w_n352_n286# pfet_03v3 ad=0.546p pd=2.98u as=0.546p ps=2.98u w=0.84u l=0.28u
.ends

.subckt nfet$7 a_n256_n198# a_30_228# a_n84_0# a_94_0#
X0 a_94_0# a_30_228# a_n84_0# a_n256_n198# nfet_03v3 ad=0.5124p pd=2.9u as=0.5124p ps=2.9u w=0.84u l=0.28u
.ends

.subckt nfet$5 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=1.8788p pd=7.38u as=1.8788p ps=7.38u w=3.08u l=0.28u
.ends

.subckt pfet$5 a_28_n136# a_n92_0# a_94_0# w_n352_n362#
X0 a_94_0# a_28_n136# a_n92_0# w_n352_n362# pfet_03v3 ad=1.092p pd=4.66u as=1.092p ps=4.66u w=1.68u l=0.28u
.ends

.subckt nfet$8 a_n256_n198# a_30_172# a_n84_0# a_94_0#
X0 a_94_0# a_30_172# a_n84_0# a_n256_n198# nfet_03v3 ad=0.3416p pd=2.34u as=0.3416p ps=2.34u w=0.56u l=0.28u
.ends

.subckt cap_mim$1 m4_n120_n120# m4_0_0#
X0 m4_0_0# m4_n120_n120# cap_mim_2f0_m4m5_noshield c_width=9u c_length=9u
.ends

.subckt nfet$6 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.5124p pd=2.9u as=0.5124p ps=2.9u w=0.84u l=0.28u
.ends

.subckt nfet$4 a_n84_n2# a_n256_n198# a_1746_0# a_38_n60#
X0 a_1746_0# a_38_n60# a_n84_n2# a_n256_n198# nfet_03v3 ad=0.228p pd=1.98u as=0.228p ps=1.98u w=0.36u l=8.54u
.ends

.subckt ota_2stage vdd vp vn vss vout
Xpfet$4_0 vdd vdd m3_n314_178# m3_n314_178# pfet$4
Xpfet$4_1 vdd m3_210_178# vdd m3_n314_178# pfet$4
Xnfet$7_0 vss m3_n1200_n227# m3_n1200_n227# vss nfet$7
Xnfet$5_0 vss vp m3_210_178# m3_n530_n14# nfet$5
Xnfet$5_1 vss vn m3_n530_n14# m3_n314_178# nfet$5
Xpfet$5_0 m3_210_178# vdd vout vdd pfet$5
Xnfet$8_0 vss m3_n1200_n227# vss vout nfet$8
Xcap_mim$1_0 vout m3_210_178# cap_mim$1
Xnfet$6_0 vss m3_n1200_n227# vss m3_n530_n14# nfet$6
Xnfet$4_0 m3_n1200_n227# vss vdd vdd nfet$4
.ends

.subckt pfet$6 a_n92_0# a_35_n136# a_108_0# w_n230_n138#
X0 a_108_0# a_35_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.35u
.ends

.subckt nfet$7$1 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt switch$1 out cntrl in vdd vss
Xpfet$6_0 m2_n331_n296# cntrl vdd vdd pfet$6
Xnfet$7$1_0 vss cntrl m2_n331_n296# vss nfet$7$1
Xpfet$6_1 in m2_n331_n296# out vdd pfet$6
Xnfet$7$1_1 vss cntrl in out nfet$7$1
.ends

.subckt pfet$5$1 a_n92_0# a_35_n136# a_108_0# w_n230_n138#
X0 a_108_0# a_35_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.35u
.ends

.subckt nfet$6$1 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt conmutator$1 in1 in2 vdd out cntrl vss
Xpfet$5$1_0 out cntrl in1 vdd pfet$5$1
Xpfet$5$1_1 in2 m2_n850_n472# out vdd pfet$5$1
Xpfet$5$1_2 m2_n850_n472# cntrl vdd vdd pfet$5$1
Xnfet$6$1_0 vss m2_n850_n472# out in1 nfet$6$1
Xnfet$6$1_1 vss cntrl in2 out nfet$6$1
Xnfet$6$1_2 vss cntrl m2_n850_n472# vss nfet$6$1
.ends

.subckt cap_mim$3 m4_n120_n120# m4_0_0#
X0 m4_0_0# m4_n120_n120# cap_mim_2f0_m4m5_noshield c_width=9u c_length=9u
.ends

.subckt pfet$24 a_n92_0# a_35_n136# a_108_0# w_n230_n138#
X0 a_108_0# a_35_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.35u
.ends

.subckt nfet$37 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt switch cntrl in vdd vss out
Xpfet$24_0 m2_n331_n296# cntrl vdd vdd pfet$24
Xpfet$24_1 in m2_n331_n296# out vdd pfet$24
Xnfet$37_0 vss cntrl m2_n331_n296# vss nfet$37
Xnfet$37_1 vss cntrl in out nfet$37
.ends

.subckt nfet$22 a_n256_n272# a_n84_0# a_198_0# a_38_n132#
X0 a_198_0# a_38_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.305p pd=2.22u as=0.305p ps=2.22u w=0.5u l=0.8u
.ends

.subckt nfet$20 a_n84_n2# a_n256_n272# a_30_n132# a_94_0#
X0 a_94_0# a_30_n132# a_n84_n2# a_n256_n272# nfet_03v3 ad=0.228p pd=1.98u as=0.228p ps=1.98u w=0.36u l=0.28u
.ends

.subckt nfet$23 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.3355p pd=2.32u as=0.3355p ps=2.32u w=0.55u l=0.28u
.ends

.subckt nfet$21 a_n256_n272# a_n84_0# a_38_n132# a_138_0#
X0 a_138_0# a_38_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.305p pd=2.22u as=0.305p ps=2.22u w=0.5u l=0.5u
.ends

.subckt nvdiv vss vdd vspike_up vres vref vspike_down
Xnfet$22_0 vss vres vss vres nfet$22
Xnfet$20_0 vref vss vref vss nfet$20
Xnfet$20_1 vspike_up vss vspike_up m2_367_1540# nfet$20
Xnfet$20_2 vdd vss vdd vspike_up nfet$20
Xnfet$23_0 vss vdd vdd vref nfet$23
Xnfet$21_0 vss vspike_down vspike_down vres nfet$21
Xnfet$21_1 vss m2_367_1540# m2_367_1540# vspike_down nfet$21
.ends

.subckt cap_mim m4_n120_n120# m4_0_0#
X0 m4_0_0# m4_n120_n120# cap_mim_2f0_m4m5_noshield c_width=5u c_length=5u
.ends

.subckt nfet$3 a_98_0# a_n256_n272# a_n84_0# a_32_n132#
X0 a_98_0# a_32_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.3u
.ends

.subckt pfet a_n92_0# a_35_n136# a_108_0# w_n230_n138#
X0 a_108_0# a_35_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.35u
.ends

.subckt nfet a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt not$3 out in vdd vss
Xpfet_0 out in vdd vdd pfet
Xnfet_0 vss in out vss nfet
.ends

.subckt pfet$2 a_28_n136# w_n180_n88# a_n92_0# a_94_0#
X0 a_94_0# a_28_n136# a_n92_0# w_n180_n88# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.28u
.ends

.subckt nfet$1 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt pfet$3 a_28_n136# a_n92_0# a_94_0# w_n230_n138#
X0 a_94_0# a_28_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.28u
.ends

.subckt nfet$2 a_30_260# a_n84_0# a_94_0# VSUBS
X0 a_94_0# a_30_260# a_n84_0# VSUBS nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt nand$1 A B Z vdd vss
Xpfet$2_0 A vdd vdd Z pfet$2
Xnfet$1_0 vss B nfet$2_0/a_94_0# vss nfet$1
Xpfet$3_0 B Z vdd vdd pfet$3
Xnfet$2_0 A Z nfet$2_0/a_94_0# vss nfet$2
.ends

.subckt monostable vin vres vneg phi_1 vss phi_2 vdd
Xcap_mim_0 not$3_1/in nand$1_0/Z cap_mim
Xcap_mim_1 not$3_3/in nand$1_1/Z cap_mim
Xnfet$3_0 vss vss not$3_1/in vres nfet$3
Xnot$3_0 phi_2 not$3_0/in vdd vss not$3
Xnfet$3_1 vss vss not$3_3/in vres nfet$3
Xnot$3_1 not$3_0/in not$3_1/in vdd vss not$3
Xnot$3_2 phi_1 vneg vdd vss not$3
Xnot$3_3 vneg not$3_3/in vdd vss not$3
Xnand$1_0 not$3_0/in phi_1 nand$1_0/Z vdd vss nand$1
Xnand$1_1 vneg vin nand$1_1/Z vdd vss nand$1
.ends

.subckt pfet$21 a_28_n136# w_n180_n88# a_n92_0# a_94_0#
X0 a_94_0# a_28_n136# a_n92_0# w_n180_n88# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.28u
.ends

.subckt nfet$34 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt pfet$22 a_28_n136# a_n92_0# a_94_0# w_n230_n138#
X0 a_94_0# a_28_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.28u
.ends

.subckt nfet$35 a_30_260# a_n84_0# a_94_0# VSUBS
X0 a_94_0# a_30_260# a_n84_0# VSUBS nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt nor A B Z vdd vss
Xpfet$21_0 B vdd Z pfet$21_0/a_94_0# pfet$21
Xnfet$34_0 vss A Z vss nfet$34
Xpfet$22_0 A pfet$21_0/a_94_0# vdd vdd pfet$22
Xnfet$35_0 B vss Z vss nfet$35
.ends

.subckt nfet$38 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt pfet$25 a_n92_0# a_35_n136# a_108_0# w_n230_n138#
X0 a_108_0# a_35_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.35u
.ends

.subckt conmutator out in1 in2 cntrl vdd vss
Xnfet$38_0 vss m2_n850_n472# out in1 nfet$38
Xnfet$38_2 vss cntrl m2_n850_n472# vss nfet$38
Xnfet$38_1 vss cntrl in2 out nfet$38
Xpfet$25_0 out cntrl in1 vdd pfet$25
Xpfet$25_2 m2_n850_n472# cntrl vdd vdd pfet$25
Xpfet$25_1 in2 m2_n850_n472# out vdd pfet$25
.ends

.subckt nfet$29 a_n256_n198# a_30_3060# a_n84_0# a_94_0#
X0 a_94_0# a_30_3060# a_n84_0# a_n256_n198# nfet_03v3 ad=9.15p pd=31.22u as=9.15p ps=31.22u w=15u l=0.28u
.ends

.subckt pfet$19 w_n352_n286# a_n92_0# a_94_0# a_28_228#
X0 a_94_0# a_28_228# a_n92_0# w_n352_n286# pfet_03v3 ad=0.546p pd=2.98u as=0.546p ps=2.98u w=0.84u l=0.28u
.ends

.subckt nfet$32 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.5124p pd=2.9u as=0.5124p ps=2.9u w=0.84u l=0.28u
.ends

.subckt nfet$30 a_n84_n2# a_n256_n198# a_1746_0# a_38_n60#
X0 a_1746_0# a_38_n60# a_n84_n2# a_n256_n198# nfet_03v3 ad=0.228p pd=1.98u as=0.228p ps=1.98u w=0.36u l=8.54u
.ends

.subckt nfet$31 a_n256_n272# a_30_n132# a_n84_0# a_94_0#
X0 a_94_0# a_30_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=1.8788p pd=7.38u as=1.8788p ps=7.38u w=3.08u l=0.28u
.ends

.subckt ota_1stage$1 vdd vp vn vss vout
Xpfet$19_0 vdd vdd m3_n314_178# m3_n314_178# pfet$19
Xnfet$32_0 vss m3_n1200_n476# m3_n1200_n476# vss nfet$32
Xpfet$19_1 vdd vdd vout m3_n314_178# pfet$19
Xnfet$32_1 vss m3_n1200_n476# vss m3_n530_n14# nfet$32
Xnfet$30_0 m3_n1200_n476# vss vdd vdd nfet$30
Xnfet$31_0 vss vn m3_n530_n14# vout nfet$31
Xnfet$31_1 vss vp m3_n530_n14# m3_n314_178# nfet$31
.ends

.subckt nfet$28 a_n256_n272# a_n84_0# a_38_n132# a_138_0#
X0 a_138_0# a_38_n132# a_n84_0# a_n256_n272# nfet_03v3 ad=0.305p pd=2.22u as=0.305p ps=2.22u w=0.5u l=0.5u
.ends

.subckt nfet$33 a_2638_0# a_n84_n2# a_n256_n198# a_38_n60#
X0 a_2638_0# a_38_n60# a_n84_n2# a_n256_n198# nfet_03v3 ad=0.228p pd=1.98u as=0.228p ps=1.98u w=0.36u l=13u
.ends

.subckt refractory vneg vss vspike_down vdd vrefrac
Xnfet$29_0 vss ota_1stage$1_0/vp vss ota_1stage$1_0/vp nfet$29
Xota_1stage$1_0 vdd ota_1stage$1_0/vp ota_1stage$1_0/vn vss vrefrac ota_1stage$1
Xnfet$28_0 vss ota_1stage$1_0/vn vspike_down vspike_down nfet$28
Xnfet$28_1 vss ota_1stage$1_0/vn ota_1stage$1_0/vn vrefrac nfet$28
Xnfet$33_0 vneg ota_1stage$1_0/vp vss vneg nfet$33
.ends

.subckt pfet$23 a_n92_0# a_35_n136# a_108_0# w_n230_n138#
X0 a_108_0# a_35_n136# a_n92_0# w_n230_n138# pfet_03v3 ad=0.65p pd=3.3u as=0.65p ps=3.3u w=1u l=0.35u
.ends

.subckt nfet$36 a_216_0# a_30_260# a_n84_0# a_94_0#
X0 a_94_0# a_30_260# a_n84_0# a_216_0# nfet_03v3 ad=0.61p pd=3.22u as=0.61p ps=3.22u w=1u l=0.28u
.ends

.subckt not$2 out in vdd vss
Xpfet$23_0 out in vdd vdd pfet$23
Xnfet$36_0 vss in out vss nfet$36
.ends

.subckt phaseUpulse phi_fire vin vspike reward vres vdd vref vss
Xswitch_0 phi_1 vspike vdd vss switch_0/out switch
Xswitch_1 phi_2 vspike vdd vss vrefrac switch
Xswitch_2 phi_int vspike vdd vss vref switch
Xnvdiv_0 vss vdd vspike_up vres vref vspike_down nvdiv
Xmonostable_0 vin vres vneg phi_1 vss phi_2 vdd monostable
Xnor_0 phi_1 phi_2 phi_int vdd vss nor
Xconmutator_0 switch_0/out vspike_up vdd reward vdd vss conmutator
Xrefractory_0 vneg vss vspike_down vdd vrefrac refractory
Xnot$2_0 phi_fire phi_int vdd vss not$2
.ends

.subckt LIF_comp vdd vss v_rew vin vout
Xota_1stage$2_0 vdd ota_1stage$2_0/vp v_th vss phaseUpulse_0/vin ota_1stage$2
Xnfet$50_0 vss v_th vin vmem nfet$50
Xota_2stage_0 vdd vspike vin vss vmem ota_2stage
Xswitch$1_0 vmem phi_fire vin vdd vss switch$1
Xconmutator$1_0 vmem vss vdd ota_1stage$2_0/vp phi_fire vss conmutator$1
Xcap_mim$3_0 conmutator$1_2/out vin cap_mim$3
Xconmutator$1_1 v_ref vmem vdd vout phi_fire vss conmutator$1
Xconmutator$1_2 vmem v_ref vdd conmutator$1_2/out phi_fire vss conmutator$1
XphaseUpulse_0 phi_fire phaseUpulse_0/vin vspike v_rew v_th vdd v_ref vss phaseUpulse
.ends

